US05998627
Paraformaldehyde (20.0 g, 724 mmol) was added in portions to 33% MeNH2 in EtOH (68.0 g, 724 mmol). Styrene (75.0 g, 721 mmol) and NaWO4.2H2O (3.4 g, 10 mmol) were added and the solution was heated to reflux. Fifty per cent H2O2 (50.0 g, 735 mmol) was added dropwise over 2 hours. After cooling, the phases were separated and the lower aqueous phase was extracted with ether (3×100 mL). The upper organic layer was combined with the ether extracts and washed with brine (2 x 100 mL). The ether and excess styrene were removed in vacuo to give (2-methyl-5-phenylisoxazolidine) as a brown oil (34.3 g, 29% based on MeNH2).

reactant | Paraformaldehyde | 724 mmol, 20.0 g | C=O | CH2O
reactant | MeNH2 | CN | CH5N
reactant | EtOH | 724 mmol, 68.0 g | CCO | C2H6O
reactant | Styrene | 721 mmol, 75.0 g | C=CC1=CC=CC=C1 | C8H8
reactant | H2O2 | 735 mmol, 50.0 g | OO | H2O2
product | 2-methyl-5-phenylisoxazolidine | CN1OC(CC1)C1=CC=CC=C1 | C10H13NO
